US07790745B2
2-(3-Methoxyphenyl)propan-1-amine (760 mg, 4.61 mmol) was added HBr solution(5.2 mL, 48% solution in H2O 46.1 mmol). The reaction was heated at 100° C. for 4 h. It was cooled down to room temperature. Removal of solvents gave crude 3-(1-aminopropan-2-yl)phenol HBr salt as a greenish foam. HPLC retention time (Method C)=0.95 min. LC/MS (ESI) (M+H)+=152.18. 1H NMR (CDCl3, 400 MHz) δ ppm 1.31 (d, J=6.59 Hz, 3H), 2.90-3.02 (m, 1H), 3.06-3.13 (m, 1H), 3.30 (s, 1H), 6.69-6.79 (m, 3H), 7.14-7.22 (m, 1H).

reactant | 2-(3-Methoxyphenyl)propan-1-amine | 4.61 mmol, 760 mg | COC=1C=C(C=CC1)C(CN)C | C10H15NO
reactant | HBr | 46.1 mmol, 5.2 mL | Br | BrH
product | 3-(1-aminopropan-2-yl)phenol HBr salt | Br.NCC(C)C=1C=C(C=CC1)O | InChI=1S/C9H13NO.BrH/c1-7(6-10)8-3-2-4-9(11)5-8;/h2-5,7,11H,6,10H2,1H3;1H
